US04051252
0.04 mol of 3-dimethylamino-6-chloroindazole and 0.04 mol of sodium amide in 50 ml of toluene are heated to the boil for 1 hour. 0.04 mol of dimethylcarbamic acid chloride is added dropwise at 60° C and this temperature is maintained for 7 hours, while stirring. After cooling, the solution is filtered and evaporated in vacuo. Distillation of the residue gives 3-dimethylamino-6-chloroindazole-1-carboxylic acid dimethylamide (boiling point0.35 170° C, melting point: 65°-66° C; 75% of theory).

reactant | 3-dimethylamino-6-chloroindazole | 0.04 mol | CN(C1=NNC2=CC(=CC=C12)Cl)C | C9H10ClN3
reactant | sodium amide | 0.04 mol | [NH2-].[Na+]
reactant | dimethylcarbamic acid chloride | 0.04 mol | CN(C(=O)Cl)C | C3H6ClNO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-dimethylamino-6-chloroindazole-1-carboxylic acid dimethylamide | CN(C(=O)N1N=C(C2=CC=C(C=C12)Cl)N(C)C)C | C12H15ClN4O
